US07795284B2
1.2) 5-Methoxy-2-(morpholin-4-ylcarbonyl)-4-nitro-1,3-benzothiazole
980 mg (2.1 mmol; 1.1 eq.) of bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (PyBroP) is added to 500 mg (1.97 mmol) of 5-methoxy-4-nitro-1,3-benzothiazole-2-carboxylic acid and 344 μl (1.97 mmol; 1 eq.) of diisopropylethylamine in solution in 40 ml of dichloromethane. The reaction mixture is maintained for 15 minutes under stirring at ambient temperature, then 202 μl (2.3 mmol; 1.2 eq.) of morpholine and a spatula tip's worth of dimethylaminopyridine are added to the medium which is maintained under stirring for 18 hours at ambient temperature. The insoluble matter is then filtered and the solvent is evaporated off under reduced pressure. The residue is then purified on a silica column (eluent:ethyl acetate/heptane:gradient of 30 to 70% over 40 minutes then for 5 minutes at 70% of ethyl acetate in heptane) and 210 mg (yield=33%) of expected product is obtained in the form of beige powder.

reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 2.1 mmol, 980 mg, 1.1 eq. | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
reactant | 5-methoxy-4-nitro-1,3-benzothiazole-2-carboxylic acid | 1.97 mmol, 500 mg | COC=1C=CC2=C(N=C(S2)C(=O)O)C1[N+](=O)[O-] | C9H6N2O5S
reactant | diisopropylethylamine | 1.97 mmol, 344 μl, 1 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | morpholine | 2.3 mmol, 202 μl, 1.2 eq. | N1CCOCC1 | C4H9NO
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Methoxy-2-(morpholin-4-ylcarbonyl)-4-nitro-1,3-benzothiazole | 210 mg, yield=33% | COC=1C=CC2=C(N=C(S2)C(=O)N2CCOCC2)C1[N+](=O)[O-] | C13H13N3O5S
